US04643760
To a mixture of 4.84 g of 2-cyclopentyloxypyridin-3-ylsulfonamide and 3.13 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene in 50 ml of absolute dioxan are added 5.46 g of N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate at 20° to 25° C. The mixture is stirred for 1/2 hour, the precipitate is isolated and the filtrate is concentrated by evaporation. The residue is triturated with 10 ml of 2N hydrochloric acid and the crystals so obtained are isolated, washed with ether and water and dried, affording 7.79 g of N-(2-cyclopentyloxypyridin-3-ylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea with a melting point of 170°-172° C.

reactant | 2-cyclopentyloxypyridin-3-ylsulfonamide | 4.84 g | C1(CCCC1)OC1=NC=CC=C1S(=O)(=O)N | C10H14N2O3S
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.13 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | N-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)phenylcarbamate | 5.46 g | COC1=NC(=NC(=N1)C)N(C([O-])=O)C1=CC=CC=C1
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
product | N-(2-cyclopentyloxypyridin-3-ylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)urea | 7.79 g | C1(CCCC1)OC1=NC=CC=C1S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C16H20N6O5S
